US04507304
To a suspension of 2-cyano-3,3-bis(methylthio)-2-propenoic acid, methyl ester (8.12 g, 1 eq) in dimethoxyethane (14 mL) was added a solution of ethylamine (2.16 g, 1.2 eq.) in dimethoxyethane (6.5 mL). The suspension turned to solution, and a white solid began to precipitate. After about 10 min the solvent was removed and the residue was filtered with diethyl ether to yield 2-cyano-3-ethylamino-3-methylthio-2-propenoic acid, methyl ester (7.2 g): mp 86°-88° C.

reactant | 2-cyano-3,3-bis(methylthio)-2-propenoic acid, methyl ester | 8.12 g, 1 eq | C(#N)C(C(=O)OC)=C(SC)SC | C7H9NO2S2
reactant | ethylamine | 2.16 g, 1.2 eq. | C(C)N | C2H7N
solvent | dimethoxyethane | 14 mL | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 6.5 mL | C(OC)COC | C4H10O2
product | 2-cyano-3-ethylamino-3-methylthio-2-propenoic acid, methyl ester | 7.2 g | C(#N)C(C(=O)OC)=C(SC)NCC | C8H12N2O2S
